US06939928B1
(1) Synthesis of 3-tert-butyl-6,6-dimethylfulvene
To a mixed solution of 1.40 g (11 mmol) of tert-butylcyclopentadiene, 8.4 ml (114 mmol) of acetone and 20 ml of methanol, 9.5 ml (114 mmol) of pyrrolidine was added with ice cooling, followed by stirring at room temperature for one night. To the reaction solution, 50 ml of water, 100 ml of ether and 3 ml of acetic acid were added with ice cooling. The separated organic phase was washed with water and dried over anhydrous sodium sulfate. After the solvent was distilled off, the residue was subjected to column chromatography (silica gel, developing solvent: hexane) to obtain 1.62 g of a yellow liquid (yield: 88%).

reactant | tert-butylcyclopentadiene | 11 mmol, 1.40 g | C(C)(C)(C)C1=CC=CC1 | C9H14
reactant | acetone | 114 mmol, 8.4 ml | CC(=O)C | C3H6O
reactant | methanol | 20 ml | CO | CH4O
reactant | pyrrolidine | 114 mmol, 9.5 ml | N1CCCC1 | C4H9N
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 3-tert-butyl-6,6-dimethylfulvene | 1.62 g, yield: 88% | C(C)(C)(C)C=1C=CC(C1)=C(C)C | C12H18
